US05025031
Sulfamic acid (1,1'-biphenyl)-4-yl ester
This compound was prepared according to the procedure used in Example 56. A mixture of 17.0 g (0.1 mole) of 4-phenylphenol, 14.8 g (0.105 mole) of chlorosulfonyl isocyanate and 100 ml of toluene gave 17.2 g (69%) of white crystals, mp 166°-168° C. (benzene-acetonitrile).

reactant | 4-phenylphenol | 0.1 mole, 17.0 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | chlorosulfonyl isocyanate | 0.105 mole, 14.8 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | benzene-acetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Sulfamic acid (1,1'-biphenyl)-4-yl ester | 17.2 g, 69% | C1(=CC=C(C=C1)OS(N)(=O)=O)C1=CC=CC=C1 | C12H11NO3S
